US04165377
A mixture of 2-guanidino-4-(4-phthalimidobutyl)thiazole hydrobromide (3.43 g.) and potassium hydroxide (1.68 g.) in water (50 ml.) was heated at 100° C. for 15 minutes. The reaction mixture was then acidified to pH 2 with 2 N HCl, and the mixture heated at 100° C. for 1 hour. The cooled reaction mixture was extracted three times with ethyl acetate, the aqueous layer was evaporated to dryness and to the residue was added toluene which was evaporated to dryness. The resulting gummy solid was dissolved in methanol, the insoluble material filtered off and the filtrate evaporated to dryness to give 2-guanidino-4-(4-aminobutyl)thiazole hydrobromide hydrochloride. The free base (1.2 g.) was obtained by passage down an ion-exchange column [Amberlite IRA-400 (OH)] in 50% v/v methanol/water.

reactant | 2-guanidino-4-(4-phthalimidobutyl)thiazole hydrobromide | 3.43 g | Br.N(C(=N)N)C=1SC=C(N1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-guanidino-4-(4-aminobutyl)thiazole hydrobromide hydrochloride | Cl.Br.N(C(=N)N)C=1SC=C(N1)CCCCN | InChI=1S/C8H15N5S.BrH.ClH/c9-4-2-1-3-6-5-14-8(12-6)13-7(10)11;;/h5H,1-4,9H2,(H4,10,11,12,13);2*1H
